US08034812B2
Production of ethyl 2-(cyanomethyl)-1,3-thiazole-4-carboxylate
To a solution of ethyl 3-bromo-2-oxopropanate (21 g, 110 mmol) in N,N-dimethylformamide (50 mL) was added a solution of 2-cyanoethanethioamide (10 g, 100 mmol) in N,N-dimethylformamide (50 mL) under ice-cooling, and the reaction mixture was stirred at room temperature for 12 hr. The mixture was concentrated under reduced pressure, and the obtained residue was dissolved in ethyl acetate, and washed with 5% aqueous sodium hydrogencarbonate solution and saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→60/40) to give the title compound (5.1 g, 26%) as a yellow powder.

reactant | ethyl 3-bromo-2-oxopropanate | 110 mmol, 21 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2-cyanoethanethioamide | 100 mmol, 10 g | C(#N)CC(N)=S | C3H4N2S
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 2-(cyanomethyl)-1,3-thiazole-4-carboxylate | 5.1 g, 26% | C(#N)CC=1SC=C(N1)C(=O)OCC | C8H8N2O2S
